US07166616B2
[1-(4-Methylamino-phenyl)-cyclopentyl]-acetic acid tert-butyl ester
A stirred suspension of [1-(4-{(benzotriazol-1-ylmethyl)-amino}-phenyl)-cyclopentyl]-acetic acid tert-butyl ester (0.21 g) in ethanol (10 mL), under argon, was treated with sodium borohydride (0.051 g). After stirring at room temperature for 2 hours a further aliquot of sodium borohydride (0.017 g) was added and stirring was continued for a further hour, then a further aliquot of sodium borohydride (0.017 g) was added and stirring was continued for a further hour. The reaction mixture was then evaporated and the residue was treated with water (15 mL) and ethyl acetate (25 mL). The organic phase was separated and then washed with water (15 mL), then with brine (15 mL), then dried over magnesium sulfate and then evaporated to give the title compound (0.15 g) as an amber oil which crystallised on standing.

reactant | [1-(4-{(benzotriazol-1-ylmethyl)-amino}-phenyl)-cyclopentyl]-acetic acid tert-butyl ester | 0.21 g | C(C)(C)(C)OC(CC1(CCCC1)C1=CC=C(C=C1)NCN1N=NC2=C1C=CC=C2)=O | C24H30N4O2
reactant | sodium borohydride | 0.051 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.017 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.017 g | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [1-(4-Methylamino-phenyl)-cyclopentyl]-acetic acid tert-butyl ester | 0.15 g | C(C)(C)(C)OC(CC1(CCCC1)C1=CC=C(C=C1)NC)=O | C18H27NO2
